US07745475B2
Methyl 3-hydroxy-5-[4-(methylsulfonyl)phenoxy]benzoate
Methyl 3-(phenylmethyl)oxy-5-[4-(methylsulfonyl)phenoxy]benzoate (3.50 g, 8.50 mmol) was dissolved in THF (60 mL) followed by 10% palladium on carbon (500 mg). The reaction was then placed under a hydrogen atmosphere by an evacuation-backfill technique. The reaction was then stirred vigorously for 4 h followed by filtration and evaporation which afforded the title compound as an colourless oil (2.75 g, 100%).

reactant | Methyl 3-(phenylmethyl)oxy-5-[4-(methylsulfonyl)phenoxy]benzoate | 8.50 mmol, 3.50 g | C1(=CC=CC=C1)COC=1C=C(C(=O)OC)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C | C22H20O6S
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | Methyl 3-hydroxy-5-[4-(methylsulfonyl)phenoxy]benzoate | 2.75 g, 100% | OC=1C=C(C(=O)OC)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C | C15H14O6S
